US06121285
4-(S)-(1-Carboxycyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone
4-(S)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone (12.56 g, 39.33 mmol) was dissolved in ethanol (120 ml) and a 1 N aqueous solution of sodium hydroxide (120 ml) was added dropwise thereinto. After stirring at 40° C. for 6 hours, ethanol was evaporated under reduced pressure. The residue was washed with chloroform (100 ml×2). Under ice cooling, the separated aqueous layer was acidified by adding dropwise 1 N hydrochloric acid thereinto and then extracted successively with chloroform (300 ml×2) and diethyl ether (300 ml). The combined organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to obtain 10.24 g (89.4%) of the title compound as colorless needles.

reactant | 4-(S)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 39.33 mmol, 12.56 g | C(C)OC(=O)C1(CC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C18H22FNO3
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 4-(S)-(1-Carboxycyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | 10.24 g, 89.4% | C(=O)(O)C1(CC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C16H18FNO3
